US04968340
Preparation of methyl 2-(4,6-dimethylpyrimidin-2-yl)oxy-3,3-dimethylbutyrate (Compound No. 13)
2.9 g of methyl 2-hydroxy-3,3-dimethybutyrate, 4.1 g of 4,6 -dimethyl-2-methylsulfonylpyrimidine and 3.3 g of potassium carbonate were added to 50 ml of N,N-dimethylformamide, and the mixture was stirred at 100° C. for 4 hours. The reaction solution was cooled to room temperature, poured into water and extracted with 100 ml of ethyl acetate. The organic layer was washed twice with a sodium chloride aqueous solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The liquid substance thereby obtained was purified by silica gel column chromatography (eluent: hexane/ethyl acetate =6/1) to obtain 4.2 g of the desired product.

reactant | methyl 2-hydroxy-3,3-dimethybutyrate | 2.9 g | OC(C(=O)OC)C(C)(C)C | C7H14O3
reactant | 4,6 -dimethyl-2-methylsulfonylpyrimidine | 4.1 g | CC1=NC(=NC(=C1)C)S(=O)(=O)C | C7H10N2O2S
reactant | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 2-(4,6-dimethylpyrimidin-2-yl)oxy-3,3-dimethylbutyrate | 4.2 g | CC1=NC(=NC(=C1)C)OC(C(=O)OC)C(C)(C)C | C13H20N2O3
